US05559111
b) 5-Benzyloxy-1,4-benzodioxane-7-carboxylic acid ethyl ester
The reaction mixture containing 900 ml of acetone, 17.4 g of hydroxy-1,4-benzodioxane-7-carboxylic acid ethyl ester, 37.9 g of caesium carbonate, 11 ml of benzyl bromide and 7.7 g of sodium iodide is stirred under reflux for 3 hours and then concentrated by evaporation. The residue is partitioned between diethyl ether and water. The organic phases are dried over sodium sulfate and concentrated by evaporation. The title compound is obtained from the residue by FC (900 g of silica gel, hexane/ethyl acetate=1:1): Rf (hexane/ethyl acetate=2:1)=0.36.

reactant | hydroxy-1,4-benzodioxane-7-carboxylic acid ethyl ester | 17.4 g | C(C)OC(=O)C=1C=CC2=C(OC(CO2)O)C1 | C11H12O5
reactant | caesium carbonate | 37.9 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | benzyl bromide | 11 ml | C(C1=CC=CC=C1)Br | C7H7Br
reactant | sodium iodide | 7.7 g | [I-].[Na+]
solvent | acetone | 900 ml | CC(=O)C | C3H6O
product | 5-Benzyloxy-1,4-benzodioxane-7-carboxylic acid ethyl ester | C(C)OC(=O)C=1C=C(C2=C(OCCO2)C1)OCC1=CC=CC=C1 | C18H18O5
